US05889184
To a stirred, cold (-78° C.) solution of 2-(2,6-dichloro-4-pyridyl)-5-ethyl-6-hydroxy-3-propargyl-4(3H)-pyrimidinone (0.10 g, 0.309 mmol) in 5 mL of dichloromethane was added collidine (0.06 mL, 0.455 mmol, 1.47 equiv). The reaction mixture was stirred for 5 min and trifluoromethanesulfonic anhydride (0.07 mL, 0.417 mmol; 1.35 equiv) was added. The reaction mixture was stirred for 30 min at -78° C., quenched with 5 mL of water and diluted with 30 mL of CH2Cl2. The organic layer was separated, washed with 15 mL of saturated sodium chloride, dried (MgSO4), filtered and concentrated to give a light brown oil. The crude product was purified by preparative TLC (ethyl acetate/hexane: 2/8) to produce 0.105 g (74%) of 2-(2,6-dichloro-4-pyridyl)-5-ethyl-3-propargyl-6-trifluoromethanesulfonyloxy-4(3H)-pyrimidinone as a white solid: mp 112°-114° C.; IR (KBr) 3236, 2125, 1692, 1620, 1555, 1423, 1293, 1201 cm-1 ; 1H NMR (270 MHz, CDCl3) δ 1.24 (t, J=7.6 Hz, 3H), 2.56 (t, J=2.3 Hz, 1H), 2.66 (q, J=14.8 Hz, 2H), 4.63 (d, J=2.3 Hz, 2H), 7.66 (s, 2H); Anal. Calcd for C15H10Cl2F3N3O4S: C, 39.49;H, 2.21;N, 9.21. Found: C, 39.69;H, 2.42;N, 9.28.

reactant | 2-(2,6-dichloro-4-pyridyl)-5-ethyl-6-hydroxy-3-propargyl-4(3H)-pyrimidinone | 0.309 mmol, 0.10 g | ClC1=NC(=CC(=C1)C1=NC(=C(C(N1CC#C)=O)CC)O)Cl | C14H11Cl2N3O2
reactant | collidine | 0.455 mmol, 0.06 mL, 1.47 equiv | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | trifluoromethanesulfonic anhydride | 0.417 mmol, 0.07 mL, 1.35 equiv | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-(2,6-dichloro-4-pyridyl)-5-ethyl-3-propargyl-6-trifluoromethanesulfonyloxy-4(3H)-pyrimidinone | 0.105 g, 74% | ClC1=NC(=CC(=C1)C1=NC(=C(C(N1CC#C)=O)CC)OS(=O)(=O)C(F)(F)F)Cl | C15H10Cl2F3N3O4S
